US05484942
43.7 g of zirconium tetrachloride are added to a solution of 12.2 g of (4RS,4aSR,7aRS)-4-hydroxy4-phenyl-6-benzylperhydrothiopyrano[2,3-c]pyrrole in 180 cm3 of benzene. The reaction mixture is refluxed for 1 hour and then brought to 20° C. and diluted with 200 cm3 of dichloromethane. 150 cm3 of a 4N aqueous solution of sodium hydroxide are added to the resulting cooled solution. The suspension obtained is filtered, the filtrate is decanted, the organic phase is washed with 200 cm3 of a saturated aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The oil obtained is chromatographed on a silica gel column (0.04 mm-0.06 mm, diameter 5.2 cm, height 39 cm), eluting under a nitrogen pressure of 0.6 bar, with a cyclohexane and ethyl acetate mixture (90/10 by volume) and collecting fractions of 125 cm 3. Fractions 19 to 32 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). The oil obtained is crystallized from 200 cm3 of diisopropyl oxide, the crystals are drained and dried. 6.2 g of (4aRS,7aRS)-6-benzyl-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole are obtained in the form of orange-colored crystals; melting point 130° C.

reactant | (4RS,4aSR,7aRS)-4-hydroxy4-phenyl-6-benzylperhydrothiopyrano[2,3-c]pyrrole | 12.2 g | OC1(CCSC2CN(CC21)CC2=CC=CC=C2)C2=CC=CC=C2 | C20H23NOS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | 180 cm3 | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 200 cm3 | ClCCl | CH2Cl2
catalyst | zirconium tetrachloride | 43.7 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
product | (4aRS,7aRS)-6-benzyl-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole | 6.2 g | C(C1=CC=CC=C1)N1CC2C(C1)C(CCS2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H27NS
